US08067457B2
To a solution of benzyl rac-(3R,4R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate (600 mg, 1.8 mmol; prepared according to WO2004/050024A2) in THF (8 mL) cooled to 0° C. was added NaH (216 mg, 5.4 mmol [60%]) and the reaction mixture stirred for 1 hour. Benzyl bromide (430 μL, 3.57 mmol) was added and the reaction mixture was allowed to stir at room temperature overnight. To the mixture was added NaHCO3 (sat. aq., 10 mL) and dichloromethane (10 mL). The organic layer was separated and the aqueous layer was washed with an additional portion of dichloromethane (10 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The resulting crude product was subjected to flash chromatography to afford benzyl rac-(3R,4R)-3-(benzyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate (200 mg, 26%). To the product was added 4N HCl (in dioxane, 5 mL) and the mixture was stirred 2 hours. All volatiles were removed, and the salt was dissolved in DMF (5 mL), to which was added {[3-(trifluoromethyl)benzoyl]amino}acetic acid (174 mg, 0.705 mmol), HATU (268 mg, 0.705 mmol), diisopropylethylamine (246 μL, 1.41 mmol) and HOBt (95 mg, 0.705 mmol) and the mixture was allowed to stir overnight. To the mixture was added NaHCO3 (sat. aq., 10 mL) and dichloromethane (10 mL). The organic layer was separated and the aqueous layer was washed with an addition portion of dichloromethane (10 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The resulting crude product was subjected to flash chromatography to afford benzyl rac-(3R,4R)-3-(benzyloxy)-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidine-1-carboxylate.

reactant | benzyl rac-(3R,4R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate | 1.8 mmol, 600 mg | C(C)(C)(C)OC(=O)NC1CN(CC1O)C(=O)OCC1=CC=CC=C1 | C17H24N2O5
reactant | NaH | 5.4 mmol, 216 mg | [H-].[Na+]
reactant | Benzyl bromide | 3.57 mmol, 430 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | benzyl rac-(3R,4R)-3-(benzyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate | 200 mg, 26% | C(C1=CC=CC=C1)OC1CN(CC1NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H30N2O5
